US07276606B2
(5-Acetyl-5,6-dihydro-phenanthridin-6-yl)-acetic acid.
To a solution of (5-acetyl-5,6-dihydro-phenanthridin-6-yl)-acetic acid methyl ester (210 mg, 0.71 mmol) dissolved in a mixture of dioxane (10 mL) and water (10 mL), LiOH×H2O (42 mg, 1 mmol) was added. The solution was allowed to stir at r.t. for 4 h. Citric acid (5% solution in water) was added and the mixture was extracted with ethyl acetate. The organic phase was washed with citric acid (2×), water (1×), and brine (1×). After drying over MgSO4, the solvent was removed in vacuo to give a colourless oil that solidified on standing ar r.t. Yield, 70%. (+)-ESI-MS: m/z=282 [M+H]+, 240, 222, 180.

reactant | (5-acetyl-5,6-dihydro-phenanthridin-6-yl)-acetic acid methyl ester | 0.71 mmol, 210 mg | COC(CC1N(C=2C=CC=CC2C2=CC=CC=C12)C(C)=O)=O | C18H17NO3
reactant | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | LiOH | [Li+].[OH-]
solvent | H2O | 1 mmol, 42 mg | O | H2O
product | (5-Acetyl-5,6-dihydro-phenanthridin-6-yl)-acetic acid | C(C)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1CC(=O)O | C17H15NO3
